US07087605B2
2-Cyclohexyl-N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]acetamide
In analogy to the procedure for Example 58A, 150 mg (0.67 mmol) 6-(1-aminopropyl)-3-cyclopentyl-1,2,4-triazin-5(4H)-one, 96 mg (0.67 mmol) cyclo-hexylacetic acid and proportionate amounts of the other reagents are used. The crude product is used in the next step without further purification.

reactant | 6-(1-aminopropyl)-3-cyclopentyl-1,2,4-triazin-5(4H)-one | 0.67 mmol, 150 mg | NC(CC)C=1C(NC(=NN1)C1CCCC1)=O | C11H18N4O
reactant | cyclo-hexylacetic acid | 0.67 mmol, 96 mg | C1(CCCCC1)CC(=O)O | C8H14O2
product | 2-Cyclohexyl-N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]acetamide | C1(CCCCC1)CC(=O)NC(CC)C=1C(NC(=NN1)C1CCCC1)=O | C19H30N4O2
